Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9].[O:10]=[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],2.73329957512
[H:1][O:2][C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:5](=[C:6])[C:10]([H:11])([H:12])[H:13],7.620152085610001
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.12958650191
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2],1.9921848916
[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16],1.32487033
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:6])[C:7]([H:8])([H:9])[H:10])[H:4].[C:3]#[C:5],6.21748836146
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.21391593136
[C:4](=[C:5](\[H:6])[O:7][H:8])\[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.63121622766
[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.66191020945
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([C:5]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],1.43707878899
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.50676553979
[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9][H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10],-1.60418575686
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8][H:9].[O:10][H:11],6.07757328372
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][H:4],1.1562720941700002
[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-4.21201016911
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],4.31092334904
[C:1]#[C:2][O:3][C:4]#[C:5][H:6]>>[C:1]#[C:2][O:3][C:4].[C:5][H:6],7.486414644
[H:1][C:2]=[C:7]([O:6][C:4]([H:5])=[C:12]([H:3])[H:13])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]1[H:13],-0.70684146678
[H:11].[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.01958881307
[H:3].[O:1]=[C:2][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.0895217529000005
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][H:7],1.3645158995200002
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.84330626315
[H:14].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.4282029597
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.31090297065
[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-1.12839740876
[C:1]=[C:2]([H:3])[C:4]([O:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][H:3].[C:4](=[O:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.1681497177299999
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],8.54535052333
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.83175695294
